US05525604
2-Methyl-5-(2-thienyl)-4-(1,3-dioxaindan-5-yl)methylaminopyrimidine
2-Methyl-5-(2-thienyl)-4-chloropyrimidine (590 mg; prepared by the same procedure as described in reference example 1) was dissolved into methylene chloride (6 ml). To the solution, (1,3-dioxaindan-5-yl)methylamine (2 ml) was added. The mixture was refluxed at 50° C. for 2 days. After reaction, the mixture was extracted with methylene chloride. The organic layer was washed with water and an aqueous saturated solution of ammonium chloride, respectively. The solution was dried over anhydrous sodium sulfate and evaporated. The residue was washed with ether to give the title compound.

reactant | 2-Methyl-5-(2-thienyl)-4-chloropyrimidine | CC1=NC=C(C(=N1)Cl)C=1SC=CC1 | C9H7ClN2S
reactant | (1,3-dioxaindan-5-yl)methylamine | 2 ml | O1COC2=CC(=CC=C12)CN | C8H9NO2
solvent | methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
product | 2-Methyl-5-(2-thienyl)-4-(1,3-dioxaindan-5-yl)methylaminopyrimidine | CC1=NC=C(C(=N1)NCC=1C=C2OCOC2=CC1)C=1SC=CC1 | C17H15N3O2S
